US05091432
Synthesis of 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-phenylpropanoic acid (AIT-0086)
100 mg (0.271 mmol) of 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-phenylpropanoic acid, methyl ester (AIT-0085) were placed into a 10 ml beaker equipped with a magnetic stirring bar. Water (5 ml) was added to the beaker and stirring was started. To the stirring heterogeneous mixture was added 100 mg (1.79 mmol) of KOH pellets. Within a few seconds the reaction mixture became a homogeneous green color. Stirring was continued for one hour. The pH of the solution was adjusted to 2.0 with concentrated hydrochloric acid. The product was collected by vacuum filtration and washed twice with 2 ml of water and then twice with 2 ml of acetone. The weight of the product, 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)1-oxopropyl]amino]-3-phenylpropanoic acid (AIT-0086), was 80 mg. Yield: 83%. m.p. 240°-242° C.

reactant | 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-phenylpropanoic acid, methyl ester | 0.271 mmol, 100 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)NC(C(=O)OC)CC1=CC=CC=C1 | C18H19N5O4
reactant | KOH | 1.79 mmol, 100 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | Water | 5 ml | O | H2O
product | 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-phenylpropanoic acid | Yield: 83% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NC(C(=O)O)CC1=CC=CC=C1 | C17H17N5O4
